* CL05A225KP5NSN Multilayer Ceramic Capacitor Spice Model
*-----------------------------------------------------------------------------------------------
* Model Generated by Samsung Electro-Mechanics
* Samsung Spice Model Version 5.0
* Date : Jan-11-2024
* Products : Multilayer Ceramic Capacitor(General)
*-----------------------------------------------------------------------------------------------
* Characteristics :
*
*     Nominal Capacitance = 2.2uF
*     Capacitance Tolerance = +/-10%
*     TCC = X5R(-55 ~ +85 degC.)
*     Rated Voltage = 10Vdc
*     Size = 0402(unit:inch), 1005(unit:mm)
*     Length = 1.00+/-0.07mm
*     Width = 0.50+/-0.07mm
*     Thickness = 0.50+/-0.07mm
*     Reliability level = Standard
*     Lineup = Lineup Normal
*     Feature = Features Normal
*     Measurement Temperature : 25degC.
*     DC bias Value = 4.1V
*     Frequency : 100Hz ~ 6GHz
*-----------------------------------------------------------------------------------------------
* External Node Assignments :
*
*  1  o---||---o  2
*
*-----------------------------------------------------------------------------------------------
.SUBCKT CL05A225KP5NSN_Precise_DC4.1V_25degC 1 2
C1 1 3 7.44932E-7
C2 3 4 3.34100E-5
C3 4 5 3.37668E-5
C4 5 6 3.55653E-5
C5 6 7 3.82947E-5
C6 7 8 3.02859E-5
C7 8 9 1.07008E-5
C8 9 10 1.0E-10
C16 17 18 3.05033E-4
C17 18 19 4.10873E-5
C18 19 20 2.29035E-5
C19 20 21 2.58443E-5
C20 21 22 2.53303E-4
C21 22 23 2.53303E-4
C22 23 24 3.74762E-5
C23 24 25 7.74981E-6
C24 25 26 7.71696E-7
C25 26 27 2.53303E-4
C26 27 28 1.82548E-11
C27 28 2 2.53303E-4
L10 11 12 8.05663E-11
L11 12 13 1.50405E-10
L12 13 14 4.05701E-11
L13 14 15 2.74833E-11
L14 15 16 1.0E-10
L15 16 17 1.0E-10
L16 17 18 1.93094E-11
L17 18 19 3.96748E-11
L18 19 20 2.63965E-11
L19 20 21 1.58995E-11
L20 21 22 1.0E-10
L21 22 23 1.0E-10
L22 23 24 0.00821
L23 24 25 1.05590E-11
L24 25 26 6.27729E-11
L25 26 27 1.0E-10
L26 27 28 2.15379E-11
L27 28 2 1.0E-10
R1 1 3 1.0E8
R2 3 4 177.66030
R3 4 5 26.71657
R4 5 6 0.57670
R5 6 7 0.08327
R6 7 8 0.01460
R7 8 9 0.00401
R8 9 10 1.0E-6
R9 10 11 0.00368
R11 12 13 0.03729
R12 13 14 0.13203
R13 14 15 0.33425
R14 15 16 1.0E-6
R15 16 17 1.0E-6
R16 17 18 0.00373
R17 18 19 0.01082
R18 19 20 0.00146
R19 20 21 6.00607E-4
R20 21 22 1.0E-6
R21 22 23 1.0E-6
R22 23 24 3.28534
R23 24 25 0.00305
R24 25 26 0.00922
R25 26 27 1.0E-6
R26 27 28 2.34594
R27 28 2 1.0E-6
.ENDS CL05A225KP5NSN_Precise_DC4.1V_25degC